US06995263B2
27.2 g of 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (95.2 mmol) were dissolved in 100 ml of dimethyl sulfoxide; 5.9 g of sodium cyanide (120 mmol) were added and the mixture was stirred at room temperature for 18 hours. Then, the reaction mixture was poured into a mixture of ice and water and was subsequently extracted with 3 portions of 400 ml of tert-butyl methyl ether. The combined organic phases were washed with water, then with brine and dried with anhydrous sodium sulfate. After evaporation of the solvent, 25.2 g (95.8% of theory) of [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetonitrile were obtained as a pale yellow solid.

reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 95.2 mmol, 27.2 g | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
reactant | sodium cyanide | 120 mmol, 5.9 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetonitrile | 25.2 g, 95.8% | CC1=NC(=CC=C1CC#N)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2
